US08202895B2
Ethyl amino[3-(difluoromethyl)phenyl]acetate
Quantities of 1.0 g (4.83 mmol) of 3-(difluoromethyl)phenyl bromide, 1.42 g (5.31 mmol) of ethyl N-(diphenylmethylene)glycinate, 0.19 ml (0.193 mmol) of a 1M solution of tri-tert-butylphosphane in toluene, 55 mg (0.10 mmol) of bis(dibenzylideneacetone)palladium(0), 3.08 g (14.49 mmol) of potassium phosphate and 6.04 ml (18.11 mmol) of 3M hydrochloric acid were heated under argon to 100° C. in 20 ml of degassed toluene, and stirred at this temperature overnight. A further 0.19 ml (0.193 mmol) of tri-tert-butylphosphane (1M solution in toluene) and 55 mg (0.10 mmol) of bis(dibenzylideneacetone)palladium(0) were added and the mixture was stirred at 100° C. for a further 24 h. The mixture was cooled to RT and filtered over celite. The celite was washed with a little toluene and the filtrate was freed from the solvent under reduced pressure. For elimination of the protecting group, the residue was taken up in 50 ml of acetonitrile and admixed with 15 ml of 3M hydrochloric acid. After 2 h, the acetonitrile fraction was removed on a rotary evaporator. The aqueous residue was diluted with water to a volume of approximately 150 ml and washed three times with diethyl ether. The aqueous phase was adjusted to a pH of 9 using 2M aqueous sodium carbonate solution and then extracted three times with dichloromethane. The combined organic phases were dried over sodium sulphate, filtered and freed from the solvent on a rotary evaporator. Drying in an HV gave 265 mg (6.46% of theory) of the title compound, in a purity of about 27%, which was reacted further without additional purification.

reactant | 3-(difluoromethyl)phenyl bromide | 4.83 mmol, 1.0 g | FC(C=1C=C(C=CC1)Br)F | C7H5BrF2
reactant | ethyl N-(diphenylmethylene)glycinate | 5.31 mmol, 1.42 g | C1(=CC=CC=C1)C(=NCC(=O)OCC)C1=CC=CC=C1 | C17H17NO2
reactant | tri-tert-butylphosphane | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | potassium phosphate | 14.49 mmol, 3.08 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | hydrochloric acid | 18.11 mmol, 3M, 6.04 ml | Cl | ClH
reactant | tri-tert-butylphosphane | 0.193 mmol, 1M, 0.19 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.10 mmol, 55 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.10 mmol, 55 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | Ethyl amino[3-(difluoromethyl)phenyl]acetate | NC(C(=O)OCC)C1=CC(=CC=C1)C(F)F | C11H13F2NO2
